US05324747
A mixture of 2.77 g (4.9 mmol) of [3,5-bis[(1-oxodecyl)amino]phenyl]carbamic acid phenylmethyl ester and 0.6 g of 10% palladium on carbon in 60 ml of THF was shaken under a hydrogen atmosphere at room temperature and pressure for 8 hours. The catalyst was removed by filtration and the filtrate was concentrated at reduced pressure. The resultant solid was triturated with ether and filtered to give 1.94 g (92% yield, mp 152°-154°) of N,N'-(5-amino-1,3-phenylene)bisdecanamide.

reactant | [3,5-bis[(1-oxodecyl)amino]phenyl]carbamic acid phenylmethyl ester | 4.9 mmol, 2.77 g | C1(=CC=CC=C1)COC(NC1=CC(=CC(=C1)NC(CCCCCCCCC)=O)NC(CCCCCCCCC)=O)=O | C34H51N3O4
catalyst | palladium on carbon | 0.6 g | [Pd] | Pd
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | N,N'-(5-amino-1,3-phenylene)bisdecanamide | 1.94 g, 92% yield | NC=1C=C(C=C(C1)NC(CCCCCCCCC)=O)NC(CCCCCCCCC)=O | C26H45N3O2
